US07098203B2
Step A: 3-phenylcyclohex-2-enone
At 0° C., 3-ethoxycyclohex-2-enone (2 g, 14.3 mmol) in THF (2 mL) was added phenylmagnesium bromide (1.0 M solution in THF, 15.0 mL) slowly. After the addition, the reaction mixture was warmed up to room temperature and stirred for 1 hr. Then 1N HCl solution (15.16 mL) was added to quench the reaction and the organic layer was separated. The aqueous layer was extracted with dichloromethane 3 times. The combined organic layers were dried over magnesium sulfate, filtered and concentrated to give the title compound as yellow solid (quantitative yield). 1H NMR (400 MHz, CDCl3) δ 2.16 (2H, dt, J=4, 12 Hz), 2.48 (2H, t, J=8 Hz), 2.77 (2H, dt, J=2, 6 Hz), 6.41 (1H, t, J=2 Hz), 7.39–7.41 (3H, m), 7.52–7.54 (2H, m).

reactant | 3-ethoxycyclohex-2-enone | 14.3 mmol, 2 g | C(C)OC1=CC(CCC1)=O | C8H12O2
reactant | phenylmagnesium bromide | 1.0 M, 15.0 mL | C1(=CC=CC=C1)[Mg]Br
reactant | HCl | 1N, 15.16 mL | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-phenylcyclohex-2-enone | quantitative yield | C1(=CC=CC=C1)C1=CC(CCC1)=O | C12H12O
